US05004745
A suspension of 1.2 g of 8-chloro-7-fluoro-1-(2-fluoroethyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid in 12 cm3 of pyridine and 3.52 g of 1-methylpiperazine is heated, with stirring, at a temperature close to 110° C. for 6 hours. The reaction mixture is concentrated under reduced pressure (20 kPa) at about 60° C. The residue is taken up in 15 cm3 of water and 2 cm3 of acetic acid. A small amount of insoluble matter is removed by filtration through diatomaceous silica. 6 cm3 of 20% aqueous potassium hydroxide solution are added to the filtrate. A very small amount of insoluble matter is again removed by filtering through diatomaceous silica. 0.6 cm3 of acetic acid is added to the filtrate. The precipitate obtained is drained, washed with twice 5 cm3 of water and twice 5 cm3 of ethanol and recrystallized twice from 10 cm3 of dimethylformamide each time. 0.6 g of 7-fluoro-1-(2-fluoroethyl)-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is obtained in the form of a yellow solid melting at 306°-308° C.

reactant | 8-chloro-7-fluoro-1-(2-fluoroethyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.2 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CCF)C1)F | C15H9ClF2N2O3
reactant | 1-methylpiperazine | 3.52 g | CN1CCNCC1 | C5H12N2
solvent | pyridine | 12 cm3 | N1=CC=CC=C1 | C5H5N
product | 7-fluoro-1-(2-fluoroethyl)-8-(4-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 0.6 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)CCF)C=C1N1CCN(CC1)C | C20H20F2N4O3
